US04795486
8.87 g of dimethyl sulfate are added dropwise to a mixture of 8.13 g of 3-amino-6-methylpyrazin-2-one and 72 ml of 1N sodium hydroxide solution at room temperature. After the mixture has been stirred at 20°-25° C. for 15 hours, the precipitate is filtered off, the filtrate is concentrated to one quarter of the volume and the concentrate is extracted with ethyl acetate. 1.7 g of 3-amino-1,6-dimethylpyrazin-2-one with a melting point of 217°-219° C. are obtained by washing with saturated sodium chloride solution, drying with sodium sulfate and concentrating the organic phase.

reactant | dimethyl sulfate | 8.87 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | 3-amino-6-methylpyrazin-2-one | 8.13 g | NC=1C(NC(=CN1)C)=O | C5H7N3O
reactant | sodium hydroxide | 1N, 72 ml | [OH-].[Na+]
product | 3-amino-1,6-dimethylpyrazin-2-one | 1.7 g | NC=1C(N(C(=CN1)C)C)=O | C6H9N3O
